US08791132B2
4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid (175 mg, 0.482 mmol) was dissolved in DCM (5 mL), ammonium chloride (51 mg, 0.964 mmol), PYBOP (300 mg, 0.578 mmol) and triethylamine (0.69 mL, 4.82 mmol) were added and the reaction mixture was stirred at RT for 4 h. The reaction progress was monitored by LC-MS. After completion of the reaction, the reaction mixture was concentrated and the crude product was purified by reverse phase chromatography to obtain 45 mg of 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyramide as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.6 (d, 2H), 7.8 (d, 2H), 7.25 (s, 1H), 7.15 (d, 1H), 6.9 (d, 1H), 4.63 (t, 1H), 4.5 (m, 1H), 4.4 (m, 1H), 4.3 (dd, 1H), 4.0 (m, 1H), 3.85 (m, 1H), 3.6 (m, 1H), 3.2 (m, 1H), 3.1 (s, 3H), 3.0 (m, 1H), 2.9 (m, 2H), 2.4 (d, 3H). Separation by chiral HPLC provides enantiomers II-229a-b.

reactant | 4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid | 0.482 mmol, 175 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(=O)O)C2=CC=NC=C2)CC1 | C22H25N3O2
reactant | ammonium chloride | 0.964 mmol, 51 mg | [Cl-].[NH4+]
reactant | PYBOP | 0.578 mmol, 300 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.82 mmol, 0.69 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyramide | 45 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(=O)N)C2=CC=NC=C2)CC1 | C22H26N4O
